US07612114B2
Ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine
To a solution of 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (1.0 g) in pyridine (5 ml) was added acetic anhydride (5 ml), and the solution was stirred for 10 minutes at room temperature. An ice water was added thereto, the solution was stirred, was neutralized with a saturated aqueous solution of sodium bicarbonate, and the resulting solid was filtered and purified by silica gel column chromatography (hexane-ethyl acetate system) to provide N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide (1.1 g). To a suspension of lithium aluminum hydride (400 mg) in tetrahydrofuran (20 ml) was added aluminum chloride (1.4 g) on an ice bath under a nitrogen atmosphere, the solution was stirred for 15 minutes at room temperature, then N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide (1.1 g) was added thereto followed by stirring for 1 hour at room temperature. Tetrahydrofuran and aqueous ammonia were sequentially added thereto, the resulting suspension was filtered through celite pad, and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (604 mg).

reactant | lithium aluminum hydride | 400 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 1.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide | 1.1 g | COC=1C=CC(=C(C1)NC(C)=O)C1CC2=CC=C(C=C2CC1)OC | C20H23NO3
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 604 mg | C(C)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C20H25NO2
